US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-(3-((3-(1-oxoisoquinolin-2(2H)-yl)propyl)(pyridin-4-ylmethyl)amino)propoxy)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione dihydrochloride
A 4N-hydrogen chloride in ethyl acetate solution(0.3 ml) was added to an ethyl acetate solution (3 ml) of 1-ethyl-3,3,5-trimethyl-7-(3-((3-(1-oxoisoquinolin-2(2H)-yl)propyl)(pyridin-4-ylmethyl)amino)propoxy)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione (159 mg), and the mixture was stirred at room temperature for two hours. The reaction mixture was condensed under reduced pressure to give the title compound(178 mg) as a amorphous solid.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-ethyl-3,3,5-trimethyl-7-(3-((3-(1-oxoisoquinolin-2(2H)-yl)propyl)(pyridin-4-ylmethyl)amino)propoxy)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione | 159 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN(CC2=CC=NC=C2)CCCN2C(C1=CC=CC=C1C=C2)=O | C35H41N5O4
solvent | ethyl acetate | 0.3 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 1-ethyl-3,3,5-trimethyl-7-(3-((3-(1-oxoisoquinolin-2(2H)-yl)propyl)(pyridin-4-ylmethyl)amino)propoxy)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione dihydrochloride | 178 mg | Cl.Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN(CC2=CC=NC=C2)CCCN2C(C1=CC=CC=C1C=C2)=O | InChI=1S/C35H41N5O4.2ClH/c1-5-40-30-13-12-28(24-31(30)37(4)33(42)35(2,3)34(40)43)44-23-9-20-38(25-26-14-17-36-18-15-26)19-8-21-39-22-16-27-10-6-7-11-29(27)32(39)41;;/h6-7,10-18,22,24H,5,8-9,19-21,23,25H2,1-4H3;2*1H
